US05849735
N-[4-(6,11-Dihydropyrido[2,3-b][1,5]benzodiazepin-6(5H)-ylcarbonyl)-phenyl][1.1'-biphenyl]-2-carboxamide
A mixture of 0.296 g of 6,11-dihydropyrido[2,3-b][1,5]benzodiazepine, 0.604 g of 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoyl chloride and 0.232 g of N,N-diisopropylethylamine in 6 ml of dichloromethane is stirred at room temperature for 1.5 hours. The mixture is poured into water and extracted with dichloromethane. The extract is washed with H2O, saturated NaHCO3, H2O, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness. The residue is purified on thick layer silica gel plates with hexane-ethyl acetate (1:2) as solvent to give the product as a solid which is crystallized from ethyl acetate to give off-white crystals, m.p. 220° C.-221° C.

reactant | 6,11-dihydropyrido[2,3-b][1,5]benzodiazepine | 0.296 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoyl chloride | 0.604 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)Cl)C=C1)C1=CC=CC=C1 | C20H14ClNO2
reactant | N,N-diisopropylethylamine | 0.232 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-[4-(6,11-Dihydropyrido[2,3-b][1,5]benzodiazepin-6(5H)-ylcarbonyl)-phenyl][1.1'-biphenyl]-2-carboxamide | N1=CC=CC2=C1NC1=C(N(C2)C(=O)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CC=C1 | C32H24N4O2
